US07173031B2
A) Methyl 2-oxo-1-(pyridin-2-yl)-1,2-dihydropyridine-3-carboxylate
To a solution of methyl 2-oxo-2H-pyran-3-carboxylate (462 mg, 3 mmol, Aldrich) in DMF (6 mL) at rt was added 3-aminopyridine (282 mg, 3 mmol). The reaction mixture was stirred at rt for 12 h and treated with EDCI.HCl (650 mg, 3.4 mmol) and DMAP (200 mg). The reaction mixture was stirred for 2.5 days at rt, and most of the DMF was removed in vacuo. The residue was purified by preparative HPLC to afford the desired product (500 mg, 72%) as a glassy material. 1H NMR (CDCl3) δ 8.53 (d, 1H, J=5.0 Hz), 8.20 (dd, 1H, J=9.2, 2.2 Hz), 8.06 (dd, 1H, J=6.0, 1.1 Hz), 7.89–7.82 (m, 2H), 7.32 (dd, 1H, J=6.6, 5.0 Hz), 6.36 (t, 1H, J=6.6 Hz), 3.86 (s, 3H); MS(ESI+) m/z 231.2 (M+H)+.

reactant | methyl 2-oxo-2H-pyran-3-carboxylate | 3 mmol, 462 mg | O=C1OC=CC=C1C(=O)OC | C7H6O4
reactant | 3-aminopyridine | 3 mmol, 282 mg | NC=1C=NC=CC1 | C5H6N2
reactant | EDCI.HCl | 3.4 mmol, 650 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 200 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl 2-oxo-1-(pyridin-2-yl)-1,2-dihydropyridine-3-carboxylate | 500 mg, 72% | O=C1N(C=CC=C1C(=O)OC)C1=NC=CC=C1 | C12H10N2O3
